US07420059B2
6-Methoxy-2,3,4,5-tetrahydropyridine (102.7 g, 0.91 mole) was added over 25 min to a solution of lithium diisopropylamine (1.8 M, 505 mL, 0.91 mole) in THF (1.2 L) stirring at −60° C. under nitrogen. After stirring at −60° C. for 1 h, methyl 3-(4-fluorophenyl)-2-isobutyrylacrylate (175 g, 0.70 mole) was added over 75 min keeping the temperature below −50° C. The reaction was quenched with saturated ammonium chloride (750 mL) after the reaction had stirred at −60° C. for 35 min. After the reaction mixture had warmed to room temperature, ethyl acetate was added and the mixture transferred to a separatory funnel. The mixture was extracted with ethyl acetate (2×1 L). The combined organic layers were washed with 50% saturated ammonium chloride solution, water, and brine; dried over magnesium sulfate; and concentrated in vacuo to afford methyl 2-[(4-fluorophenyl)-(2-methoxy-3,4,5,6-tetrahydro-pyridin-3-yl)-methyl]-4-methyl-3-oxo-pentanoate (271 g).

reactant | 6-Methoxy-2,3,4,5-tetrahydropyridine | 0.91 mole, 102.7 g | COC=1CCCCN1 | C6H11NO
reactant | lithium diisopropylamine | 0.91 mole, 1.8 M, 505 mL | C(C)(C)NC(C)C.[Li]
reactant | methyl 3-(4-fluorophenyl)-2-isobutyrylacrylate | 0.70 mole, 175 g | FC1=CC=C(C=C1)C=C(C(=O)OC)C(C(C)C)=O | C14H15FO3
solvent | THF | 1.2 L | C1CCOC1 | C4H8O
product | methyl 2-[(4-fluorophenyl)-(2-methoxy-3,4,5,6-tetrahydro-pyridin-3-yl)-methyl]-4-methyl-3-oxo-pentanoate | 271 g | FC1=CC=C(C=C1)C(C(C(=O)OC)C(C(C)C)=O)C1C(=NCCC1)OC | C20H26FNO4
